US07691869B2
To a solution of the title C compound, 2-{5-amino-2-(furan-2-yl)-7H-pyrrolo[3,2-e][1,2,4]triazolo[1,5-c]pyrimidin-7-yl}ethanol (15 g, 5.28 mmol) in 45 mL of dry THF is added 75 mL of TEA, 75 mL of pyridine and methanesulfonyl chloride (0.6 mL, 7.75 mmol) at 0° C. The mixture is stirred at RT under N2 for 12 h. The solvent is evaporated in vacuo and the residue is purified by flash chromatography using EtOAc as eluent to give 2-{5-amino-2-(furan-2-yl)-7H-pyrrolo[3,2-e][1,2,4]triazolo[1,5-c]pyrimidin-7-yl}ethyl methanesulfonate as a white solid: LC/MS (M+1=363.4). 1H NMR (DMSO-d6, 400 MHz) δ 3.07 (s, 3H), 4.47 (t, 2H, J=5.2 Hz), 4=59 (t, 2H) J=5.2 Hz), 6.65 (d, 1H, J=3.6 Hz), 6.72 (dd, 1H, J=3.2 Hz and 1.6 Hz), 7.18 (d, 1H, J=3.6 Hz), 7.20 (d, 1H, J=3.2 Hz), 7.60 (s, 2H), 7.92 (d, 1H, J=1.2 Hz).

reactant | 2-{5-amino-2-(furan-2-yl)-7H-pyrrolo[3,2-e][1,2,4]triazolo[1,5-c]pyrimidin-7-yl}ethanol | 5.28 mmol, 15 g | NC1=NC2=C(C=3N1N=C(N3)C=3OC=CC3)C=CN2CCO | C13H12N6O2
reactant | pyridine | 75 mL | N1=CC=CC=C1 | C5H5N
reactant | methanesulfonyl chloride | 7.75 mmol, 0.6 mL | CS(=O)(=O)Cl | CH3ClO2S
solvent | THF | 45 mL | C1CCOC1 | C4H8O
product | 2-{5-amino-2-(furan-2-yl)-7H-pyrrolo[3,2-e][1,2,4]triazolo[1,5-c]pyrimidin-7-yl}ethyl methanesulfonate | CS(=O)(=O)OCCN1C=CC=2C=3N(C(=NC21)N)N=C(N3)C=3OC=CC3 | C14H14N6O4S
